Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
ALIF L4-L5
Posterior L4-L5 laminectomy and fusion and removal ___ 
rod
 
History of Present Illness:
___ presented to Dr. ___ office with complaints of 
worsening back and leg pain. After review of the patients 
history and physical examination in the office, as well as 
radiographic studies, it was determined they would be a good 
candidate for anterior and posterior L4-L5 fusion and removal of 
___ rod. The patient was in agreement with the plan and 
consent was obtained and signed.
 
Past Medical History:
asthma, allergies
GI problems
depression
OCD/PTSD/bipolar disorder
pneumonia, migraines, chickenpox
arthritis
hemorrhoids
psoriasis

PSH: thoracic fusion in ___, three neck surgeries, 
hysterectomy, C-section, bladder sling, polyps removed
 
Social History:
___
Family History:
cancer, diabetes, neurologic disease, skin disease, blood 
disorders, arthritis, hypertension
 
Physical Exam:
On examination the patient is well developed, well nourished, 
A&O x3 in NAD. AVSS.
Range of motion of the lumbar spine is somewhat limited on 
flexion, extension and lateral bending due to pain.
Ambulating well with the assistance of a walker and ___, with 
brace for support.
Gross motor examination reveals good strength throughout the 
bilateral lower extremities.
There is no clonus present. 
Sensation is intact throughout all affected dermatomes.
The thoracolumbar incision is clean, dry and intact without 
erythema, edema or drainage.
The patient is voiding well without a foley catheter.

 
Pertinent Results:
___ 06:24AM BLOOD WBC-6.3 RBC-3.22* Hgb-9.3* Hct-29.5* 
MCV-92 MCH-28.9 MCHC-31.5* RDW-12.5 RDWSD-41.8 Plt ___
___ 06:24AM BLOOD Glucose-116* UreaN-6 Creat-0.5 Na-138 
K-4.2 Cl-96 HCO___-34* AnGap-12
___ 06:24AM BLOOD Calcium-8.4 Phos-4.7* Mg-2.___riefly, ___ was admitted to the ___ Spine Surgery 
Service on ___ and taken to the Operating Room for an 
anterior lumbar interbody fusion L4-L5 through an anterior 
approach. Please refer to the dictated operative note for 
further details. The surgery was performed without complication, 
the patient tolerated the procedure well and was transferred to 
the PACU in a stable condition. TEDs/pnemoboots were used for 
postoperative DVT prophylaxis. Intravenous antibiotics were 
given per standard protocol. Initial postop pain was controlled 
with a dilaudid PCA. The patient remained NPO. On HD#2, she 
returned to the operating room for a posterior L4-L5 laminectomy 
and fusion and ___ rod removal scheduled as part of a 
staged 2-part procedure. Please refer to the dictated operative 
note for further details. The second surgery was also without 
complication and the patient was transferred to the PACU in a 
stable condition. Postoperative labs were grossly stable. The 
patient remained NPO until bowel function returned, then diet 
was advanced as tolerated. The patient was transitioned to oral 
pain medication when tolerating PO diet. Foley was removed on 
POD#2 from the second procedure, and the patient was able to 
void. A hemovac drain that was placed at the time of surgery was 
also removed on POD#2. A brace was fitted for comfort and 
support. She received 2 units of pRBCs due to acute 
post-operative blood loss anemia. Physical therapy was consulted 
for mobilization OOB to ambulate. Hospital course was otherwise 
unremarkable. On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 15 mg oral QAM 
2. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Diazepam 10 mg PO Q8H:PRN muscle spasm 
5. Senna 8.6 mg PO BID:PRN constipation 
6. Morphine SR (MS ___ 30 mg PO Q12H 
7. OxyCODONE (Immediate Release) 15 mg PO Q6H 
8. mometasone 220 mcg (14 doses) inhalation DAILY 
9. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
10. Omeprazole 20 mg PO BID 
11. Albuterol Sulfate (Extended Release) Dose is Unknown  PO 
Frequency is Unknown 
12. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, sob 
13. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Albuterol Sulfate (Extended Release) 4 mg PO Q12H  
4.  Diazepam 5 mg PO Q6H:PRN spasm 
RX *diazepam 5 mg 1 tab by mouth every six (6) hours Disp #*90 
Tablet Refills:*0 
5.  Morphine SR (MS ___ 60 mg PO Q12H 
RX *morphine [MS ___ 60 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*60 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 15 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth q3h Disp #*112 Tablet 
Refills:*0 
7.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, sob  
8.  Amphetamine-Dextroamphetamine XR 30 mg PO DAILY  
9.  dextroamphetamine-amphetamine 15 mg oral QAM  
10.  Gabapentin 300 mg PO TID 
RX *gabapentin [Neurontin] 300 mg 1 capsule(s) by mouth three 
times a day Disp #*90 Capsule Refills:*0 
11.  mometasone 220 mcg (14 doses) inhalation DAILY  
12.  Omeprazole 20 mg PO BID  
13.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lumbar spondylosis, scoliosis, and disk degeneration.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory.

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ 
___, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 6 months from the date of surgery.
 
Followup Instructions:
___